US08357374B2
Preparation of 4-(2,6-dichloropurin-9-ylmethyl)benzonitrile
2,6-dichloro-9H-purine (16 mmol) is dissolved in DMF (50 mL) and potassium carbonate (50 mmol) is added. α-Bromo-p-tolunitrile (22 mmol) is then added and the mixture is stirred at ambient temperature for 16 hours. After filtration to remove insoluble inorganic salts, the filtrate is poured into water (1500 mL) and extracted with ethyl acetate (2×400 mL), dried over magnesium sulfate and evaporated to yield a residue which is subjected to flash silica gel chromatography using 1:2:10 ethyl acetate/acetone/hexanes. Yield 3.33 g (69%). UV, NMR and MS were consistent with structure assignment.

reactant | 2,6-dichloro-9H-purine | 16 mmol | ClC1=NC(=C2N=CNC2=N1)Cl | C5H2Cl2N4
reactant | potassium carbonate | 50 mmol | C([O-])([O-])=O.[K+].[K+]
reactant | α-Bromo-p-tolunitrile | 22 mmol | BrCC1=CC=C(C=C1)C#N | C8H6BrN
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 4-(2,6-dichloropurin-9-ylmethyl)benzonitrile | ClC1=NC(=C2N=CN(C2=N1)CC1=CC=C(C#N)C=C1)Cl | C13H7Cl2N5
